US06780878B2
C. N1-[1-(4-pyridyl)piperidin-4-ylmethyl]-1,2-benzenediamine
A mixture of 2-nitro-N-[1-(4-pyridyl)piperidin-4-yl-methyl]aniline (235 mg, 0.75 mmol) and 10% palladium on carbon (200 mg) in ethanol (4 mL) was placed under an atmosphere of hydrogen gas. After 1 h, the mixture was filtered through diatomaceous earth. The filtrate was concentrated yielding 212 mg of the title compound, which was used without further purification.

reactant | 2-nitro-N-[1-(4-pyridyl)piperidin-4-yl-methyl]aniline | 0.75 mmol, 235 mg | [N+](=O)([O-])C1=C(NCC2CCN(CC2)C2=CC=NC=C2)C=CC=C1 | C17H20N4O2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N1-[1-(4-pyridyl)piperidin-4-ylmethyl]-1,2-benzenediamine | 212 mg | N1=CC=C(C=C1)N1CCC(CC1)CNC=1C(=CC=CC1)N | C17H22N4
